US07932269B2
N-(4-Chlorophenyl)-3-methoxy-benzenesulfonamide
To a solution of 4-chloroaniline (400 mg, 3.13 mmol) in anhydrous dichloromethane (40 mL) were added 3-methoxybenzenesulfonyl chloride (648 mg, 3.13 mmol) followed by pyridine (297.2 mg, 3.76 mmol). The mixture was allowed to stir for 12 h at 25° C. 10% citric acid solution (20 mL) and water (20 mL) was added. The organic phase was dried (Na2SO4), and evaporated under reduced pressure yielding the title compound as solid which was used as such in the next step. Yield: 900 mg (96%). MS (m/e): 296 (M+−H); 1H-NMR (CDCl3, 400 MHz): δ 3.76 (s, 3H), 6.48 (brs, 1H), 7.0 (d, J=8.72 Hz, 2H), 7.06 (d, J=7.76 Hz, 1H), 7.21 (m, 3H), 7.32 (m, 2H).

reactant | 4-chloroaniline | 3.13 mmol, 400 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 3-methoxybenzenesulfonyl chloride | 3.13 mmol, 648 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | pyridine | 3.76 mmol, 297.2 mg | N1=CC=CC=C1 | C5H5N
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-(4-Chlorophenyl)-3-methoxy-benzenesulfonamide | ClC1=CC=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)OC | C13H12ClNO3S
